US08669249B2
Methyl 2-(4-formyl-2-methoxy-6-nitrophenoxy)acetate (368)
Using 4-hydroxy-3-methoxy-5-nitrobenzaldehyde as the phenol and methyl 2-bromoacetate as the alkylating agent in the general procedure for alkylation of substituted 2-nitrophenols gives the title compound as a dark orange oil: 1H NMR (400 MHz, DMSO-d6) δ ppm 3.66 (s, 3H) 3.97 (s, 3 H) 4.98 (s, 2H) 7.83 (d, J=1.77 Hz, 1H) 8.05 (d, J=1.77 Hz, 1H) 9.97 (s, 1H). ESI-MS: m/z 270.1 (M+H)+.

reactant | 4-hydroxy-3-methoxy-5-nitrobenzaldehyde | OC1=C(C=C(C=O)C=C1[N+](=O)[O-])OC | C8H7NO5
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl 2-bromoacetate | BrCC(=O)OC | C3H5BrO2
product | Methyl 2-(4-formyl-2-methoxy-6-nitrophenoxy)acetate | C(=O)C1=CC(=C(OCC(=O)OC)C(=C1)[N+](=O)[O-])OC | C11H11NO7
